US07091214B2
8-Bromo-2-ethyl-1-isobutyl-1H-imidazo[4,5-c]quinolin-4-amine and pyridine-3-boronic acid were coupled according to the general procedure described in Part J of Example 1. Chromatography on silica gel (5%–7% methanol in CH2Cl2 gradient) followed by recrystallization from isopropanol afforded 2-ethyl-1-isobutyl-8-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine as white crystals, m.p. >250° C.

reactant | 8-Bromo-2-ethyl-1-isobutyl-1H-imidazo[4,5-c]quinolin-4-amine | BrC1=CC=2C3=C(C(=NC2C=C1)N)N=C(N3CC(C)C)CC | C16H19BrN4
reactant | pyridine-3-boronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | 2-ethyl-1-isobutyl-8-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine | C(C)C=1N(C2=C(C(=NC=3C=CC(=CC23)C=2C=NC=CC2)N)N1)CC(C)C | C21H23N5
